US06911447B2
Preparation of 2-acetylamino-N-[2-[2-(2-cyanoethyl)-4-(2-naphthalen-2-ylethyl)-5-oxo-piperazin-1-yl]-1-(4-fluorobenzyl)-2-oxo-ethyl]-3-(4-hydroxyphenyl)-propionamide (34):
To a solution of 3-[1-[2-amino-3-(4-fluorophenyl)propionyl]-4-(2-naphthalen-2-ylethyl)-5-oxo-piperazin-2-yl]propionitrile, 33, (47.2 g, 100 mmol), N-acetyl-L-tyrosine (22.3 g, 120 mmol), 1-hydroxybenzotriazole (16.2 g, 120 mmol), and N-methylmorpholine (132 mL, 120 mmol) in DMF (150 mL) is cooled to 0° C. and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (24.9 g, 130 mmol) is slowly added. The resulting mixture is stirred for 2 hours at 0° C. then allowed to warm and stir at room temperature another 2 hours. The reaction solution is diluted with water and the resulting solid is collected by filtration, re-dissolved in EtOAc and extracted with water, dried and concentrated in vacuo to afford the crude product which is purified over silica gel.

reactant | 3-[1-[2-amino-3-(4-fluorophenyl)propionyl]-4-(2-naphthalen-2-ylethyl)-5-oxo-piperazin-2-yl]propionitrile | NC(C(=O)N1C(CN(C(C1)=O)CCC1=CC2=CC=CC=C2C=C1)CCC#N)CC1=CC=C(C=C1)F | C28H29FN4O2
reactant | N-acetyl-L-tyrosine | 100 mmol, 47.2 g | C(C)(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C11H13NO4
reactant | 1-hydroxybenzotriazole | 120 mmol, 16.2 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-methylmorpholine | 120 mmol, 132 mL | CN1CCOCC1 | C5H11NO
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 130 mmol, 24.9 g | CN(CCCN=C=NCC)C | C8H17N3
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-acetylamino-N-[2-[2-(2-cyanoethyl)-4-(2-naphthalen-2-ylethyl)-5-oxo-piperazin-1-yl]-1-(4-fluorobenzyl)-2-oxo-ethyl]-3-(4-hydroxyphenyl)-propionamide | C(C)(=O)NC(C(=O)NC(C(=O)N1C(CN(C(C1)=O)CCC1=CC2=CC=CC=C2C=C1)CCC#N)CC1=CC=C(C=C1)F)CC1=CC=C(C=C1)O | C39H40FN5O5
